US07615568B2
A. 3-[2-(3-tert-Butoxycarbonylaminopropoxy)-4-(ethylthio)benzoylamino]-N-(5-chloropyridin-2-yl)-6-methylpyridine-2-carboxamide
Using a procedure analogous to Example 1-G, 2-(3-t-butoxycarbonylaminopropoxy)-4-(ethylthio)benzoic acid and 3-amino-N-(5-chloropyridin-2-yl)-6-methylpyridine-2-carboxamide gave the title compound as a solid (2.2 g, 67%).

reactant | 2-(3-t-butoxycarbonylaminopropoxy)-4-(ethylthio)benzoic acid | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)O)C=CC(=C1)SCC | C17H25NO5S
reactant | 3-amino-N-(5-chloropyridin-2-yl)-6-methylpyridine-2-carboxamide | NC=1C(=NC(=CC1)C)C(=O)NC1=NC=C(C=C1)Cl | C12H11ClN4O
product | 3-[2-(3-tert-Butoxycarbonylaminopropoxy)-4-(ethylthio)benzoylamino]-N-(5-chloropyridin-2-yl)-6-methylpyridine-2-carboxamide | 2.2 g, 67% | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)NC=2C(=NC(=CC2)C)C(=O)NC2=NC=C(C=C2)Cl)C=CC(=C1)SCC | C29H34ClN5O5S
